US08420640B2
A solution of N-benzyl-5-bromo-2-nitrobenzenamine (100 mg, 0.32 mmol) and 1-methylpiperazine (65 mg, 0.65 mmol) in NMP (1 mL) was heated to 110° C. for 16 h. The solution was cooled to room temperature to which was slowly added H2O (5 mL). The resulting yellow precipitate was filtered, washed with 2 mL of water, dried (high vacuum, 14 h) to furnish N-benzyl-5-(4-methylpiperazin-1-yl)-2-nitrobenzenamine (73 mg, 0.22 mmol), 69% yield. 1H NMR (500 MHz, DMSO-D6) d (ppm) 8.81 (m, 1H), 7.90 (d, J=9.5 Hz, 1H), 7.44-7.34 (m, 4H), 7.30-7.25 (m, 1H), 6.41 (dd, J=2.5 Hz, 10 Hz, 1H), 5.97 (d, J=2.5 Hz, 1H), 4.58 (d, J=6 Hz, 2H) 3.4-3.2 (m, 4H), 2.34 (m, 4H), 2.19 (s, 3H).+ESI HRMS (calcd for C18H23N4O2, M+1) 327.1821, found 327.1816

reactant | N-benzyl-5-bromo-2-nitrobenzenamine | 0.32 mmol, 100 mg | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
reactant | 1-methylpiperazine | 0.65 mmol, 65 mg | CN1CCNCC1 | C5H12N2
reactant | H2O | 5 mL | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | N-benzyl-5-(4-methylpiperazin-1-yl)-2-nitrobenzenamine | 0.22 mmol, 73 mg, 69% yield | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C18H22N4O2
